US07427632B2
4-{2-(1H-Indole-6-carbonyl)amino-2-(2-chlorophenyl)ethoxy-methyl}piperidine-1-carboxylic acid tert-butyl ester
Using coupling method A, 4-[2-amino-2-(2-chlorophenyl)-ethoxymethyl]piperidine-1-carboxylic acid tert-butyl ester (500 mg, 1.4 mmol) and indole-6-carboxylic acid (219 mg, 1.4 mmol) afforded, after purification (SiO2: 33% to 50% EtOAc in hexane), 579 mg (83%) of the title compound.

reactant | 4-[2-amino-2-(2-chlorophenyl)-ethoxymethyl]piperidine-1-carboxylic acid tert-butyl ester | 1.4 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COCC(C1=C(C=CC=C1)Cl)N | C19H29ClN2O3
reactant | indole-6-carboxylic acid | 1.4 mmol, 219 mg | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
product | 4-{2-(1H-Indole-6-carbonyl)amino-2-(2-chlorophenyl)ethoxy-methyl}piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)COCC(C1=C(C=CC=C1)Cl)NC(=O)C1=CC=C2C=CNC2=C1 | C28H34ClN3O4
